US06936602B1
In THF (10.0 ml) was dissolved methyl 7-(4-ethoxy-3-fluorophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate (345 mg). To the solution was added pyridine (0.82 ml), and to the mixture was added a solution of methanesulfonic anhydride (880 mg) in THF (5.0 ml), at room temperature. The mixture was stirred at room temperature for 37.5 hours, diluted with ethyl acetate, and washed with water, 1N hydrochloric acid, water and saturated brine, and the organic layer was dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give crystals, which were washed with ethyl acetate/hexane to give methyl 7-(4-ethoxy-3-fluorophenyl)-1-methylsulfonyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate (193 mg) as white crystals. The mother liquor was concentrated, and the residue was purified with silica gel column chromatography (15 g, hexane:ethyl acetate=3:1) to give desired product. The obtained methyl 7-(4-ethoxy-3-fluorophenyl)-1-methylsulfonyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate was collected and dissolved in a mixture of THF and ethanol (1:1, v/v, 10.0 ml). To the solution was added 1N sodium hydroxide solution (3.6 ml), and the mixture was stirred at room temperature for 16.5 hours. The mixture was a little concentrated, and to the residue was added 1N hydrochloric acid to convert weakly acidic solution. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine, and dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give crystals, which were washed with ethyl acetate/hexane to give 7-(4-ethoxy-3-fluorophenyl)-1-methylsulfonyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (213 mg, 52%) as white crystals.

reactant | methyl 7-(4-ethoxy-3-fluorophenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 345 mg | C(C)OC1=C(C=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1)F | C20H20FNO3
reactant | pyridine | 0.82 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic anhydride | 880 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | THF | 10.0 ml | C1CCOC1 | C4H8O
solvent | THF | 5.0 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 7-(4-ethoxy-3-fluorophenyl)-1-methylsulfonyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 193 mg | C(C)OC1=C(C=C(C=C1)C=1C=CC2=C(C=C(CCN2S(=O)(=O)C)C(=O)OC)C1)F | C21H22FNO5S
